US08859768B2
To a solution of (2-chloro-5-formylphenyl)boronic acid (1.00 g, 5.42 mmol) in DCM (30 mL) were added pyrrolidine (0.45 mL, 5.42 mmol) and sodium triacetoxyborohydride (2.39 g, 11.3 mmol). The reaction mixture was allowed to stir at rt for 2.5 h and then diluted with brine. The mixture was extracted with DCM. The organic solutions were combined, dried over Na2SO4, filtered and concentrated to give [2-chloro-5-(pyrrolidin-1-ylmethyl)phenyl]boronic acid.

reactant | (2-chloro-5-formylphenyl)boronic acid | 5.42 mmol, 1.00 g | ClC1=C(C=C(C=C1)C=O)B(O)O | C7H6BClO3
reactant | pyrrolidine | 5.42 mmol, 0.45 mL | N1CCCC1 | C4H9N
reactant | sodium triacetoxyborohydride | 11.3 mmol, 2.39 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
solvent | brine | [Cl-].[Na+].O
product | [2-chloro-5-(pyrrolidin-1-ylmethyl)phenyl]boronic acid | ClC1=C(C=C(C=C1)CN1CCCC1)B(O)O | C11H15BClNO2
